US05292732
2-(2-Bromoethyl)-1,3-dioxolane (32.7 ml) was added dropwise within 15 minutes under argon and while stirring at a maximum 30° C. to a suspension of Rieke magnesium, prepared from 37.5 g of magnesium chloride, in 1200 ml of absolute tetrahydrofuran. The suspension was stirred at room temperature for 15 minutes, cooled to 0° C. and, after the addition of 36.4 g of copper(I) bromide, stirred at 0° C. for 15 minutes. After cooling to -70° C. 45.0 g of 3,4-dichlorobenzoyl chloride dissolved in 100 ml of absolute tetrahydrofuran were added dropwise within 20 minutes. The reaction mixture was stirred at -70° C. for 30 minutes and at room temperature for 2 hours and subsequently hydrolyzed with 800 ml of saturated ammonium chloride solution while cooling at a maximum 20° C. After the addition of 500 ml of water the mixture was extracted three times with ethyl acetate (1×800 ml, 2×500 ml). The combined organic extracts were dried over MgSO4 and freed from solvent. The residue, 65.0 g of brown oil, was chromatographed on 1500 g of silica gel with ethyl acetate/hexane (1:3) as the eluent. 30.4 g (51%) of 3',4'-dichloro-3-(1,3-dioxolan-2-yl)propiophenone were isolated as a yellow-orange oil.

reactant | 2-(2-Bromoethyl)-1,3-dioxolane | 32.7 ml | BrCCC1OCCO1 | C5H9BrO2
reactant | magnesium | [Mg] | Mg
reactant | magnesium chloride | 37.5 g | [Cl-].[Mg+2].[Cl-]
reactant | 3,4-dichlorobenzoyl chloride | 45.0 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | ammonium chloride | 800 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | copper(I) bromide | 36.4 g | [Cu]Br
solvent | water | 500 ml | O | H2O
product | 3',4'-dichloro-3-(1,3-dioxolan-2-yl)propiophenone | 30.4 g, 51% | ClC=1C=C(C=CC1Cl)C(CCC1OCCO1)=O | C12H12Cl2O3
